US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 3-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate.dihydrochloride:
15 Milliliters of 20% hydrous pyridine was added to 634.1 mg of 3-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride, 676.7 mg of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 598 mg of DCC and 29.5 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 24 hours under cooling with water. Thereafter, the same procedure as in Example 1 was carried out to obtain 439.5 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 3-[(4,5-dihydro-1H-imidazol-2-yl)amino]benzoic acid.hydrochloride | 634.1 mg | Cl.N1C(=NCC1)NC=1C=C(C(=O)O)C=CC1
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 676.7 mg | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 598 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 29.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 3-[(4,5-dihydro-1H-imidazol-2-yl)amino]-benzoate.dihydrochloride | 439.5 mg | Cl.Cl.N1C(=NCC1)NC=1C=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=CC1 | InChI=1S/C23H22N6O3.2ClH/c24-20(30)12-18-17-6-4-14(21(25)26)10-13(17)5-7-19(18)32-22(31)15-2-1-3-16(11-15)29-23-27-8-9-28-23;;/h1-7,10-11H,8-9,12H2,(H2,24,30)(H3,25,26)(H2,27,28,29);2*1H
